US05576338
S-(2-Trimethylsilylethyl)-3-fluoro-5-phenylthiophenol
To a suspension of NaH (360 mg) in DMF (10 mL) at 0° C. was added 2-(trimethylsilyl)ethanethiol (1.8 mL). After 10 min., a solution of 1,3-difluoro-5-phenylbenzene (1.9 g) in DMF (5 mL) was added and the resulting mixture was heated at 110° C. for 2.5 h. Ethyl acetate was added and the solution was washed with 1N HCl, H2O and brine. Concentration and chromatography (silica gel; hexane/EtOAc (98:2)) provided the title compound as a liquid.

reactant | NaH | 360 mg | [H-].[Na+]
reactant | 2-(trimethylsilyl)ethanethiol | 1.8 mL | C[Si](CCS)(C)C | C5H14SSi
reactant | 1,3-difluoro-5-phenylbenzene | 1.9 g | FC1=CC(=CC(=C1)C1=CC=CC=C1)F | C12H8F2
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | S-(2-Trimethylsilylethyl)-3-fluoro-5-phenylthiophenol | C[Si](CCSC1=CC(=CC(=C1)C1=CC=CC=C1)F)(C)C | C17H21FSSi
